US05258382
Preparation of 2-(pyrrol-1-yl)malonic acid ethyl (-)-menthyl ester:
To a mixture of 2-(pyrrol-1-yl)malonic acid diethyl ester (300.0 g) and (-)-menthol (417.0 g) was added tetraethyl titanate (10.0 g), and the resulting mixture was stirred at 110° C. for 19 hours. After removal of the (-)-menthol under reduced pressure, the residue was chromatographed on silica gel using n-hexane/ethyl acetate (50:1) as the eluent. Fractions containing the title compound were pooled and evaporated under reduced pressure to give the title compound (142.0 g, 31.8%) as a colorless oil.

reactant | 2-(pyrrol-1-yl)malonic acid diethyl ester | 300.0 g | C(C)OC(C(C(=O)OCC)N1C=CC=C1)=O | C11H15NO4
reactant | (-)-menthol | 417.0 g | C1(CC(C(CC1)C(C)C)O)C | C10H20O
catalyst | tetraethyl titanate | 10.0 g | CCO.CCO.CCO.CCO.[Ti]
product | 2-(pyrrol-1-yl)malonic acid ethyl (-)-menthyl ester | 142.0 g, 31.8% | C1(CC(C(CC1)C(C)C)OC(C(C(=O)OCC)N1C=CC=C1)=O)C | C19H29NO4
